US09193722B2
(4-(tert-butyldimethylsilyl)-3,5,6-trifluoropyridin-2-yl)(2-fluoropyridin-3-yl)methanone
A solution of diisopropylamine (66.78 g, 92.49 mL, 659.9 mmol) in THF (1.360 L) was cooled to −20° C. under nitrogen. nBuLi (2.5M in hexane) (253.0 mL of 2.5 M, 632.4 mmol) was added dropwise via cannula at such a rate as to maintain the internal temperature below −15° C. The solution was warmed to 0° C. then immediately re-cooled to −90° C. Tert-butyl-dimethyl-(2,3,5-trifluoro-4-pyridyl)silane (136 g, 549.9 mmol) was added dropwise via cannula at such a rate as to maintain the internal temperature below −85° C. After complete addition the solution became an orange suspension. The reaction mixture was stirred at −85° C. for 1 h then 2-fluoro-N-methoxy-N-methylpyridine-3-carboxamide (116.5 g, 632.4 mmol) was added dropwise over 1 h keeping the internal temperature below −85° C. The mixture turned dark green then dark red during addition. The mixture was stirred at −85° C. for 45 min after which time Lc/Ms indicated the reaction was complete. The cooling bath was removed and the mixture warmed to −50° C. Saturated ammonium chloride solution NH4Cl (300 mL) was added and the mixture allowed to warm up to RT. The mixture was diluted with EtOAc (2.5 L). The aqueous phase was separated and extracted with more EtOAc (500 ml). The combined organics were washed with brine and partially concentrated in vacuo. The solution was dried over magnesium sulfate, filtered and concentrated in vacuo to a brown oil. The crude was purified on silica gel, eluting with 0-20% ethyl acetate in petroleum ether. This gave the title compound as a yellow oil which solidified on standing (159.6 g, 78%); 1H NMR (CDCl3) 0.35 (6H, s), 0.88 (9H, s), 7.29 (1H, m), 8.13 (1H, m), 8.37 (1H, m); 19F NMR (decoupled) −112.47, −106.7, −89.3, −61.95; MS ES (+) 371.14 (M+1).

reactant | diisopropylamine | 659.9 mmol, 92.49 mL, 66.78 g | C(C)(C)NC(C)C | C6H15N
reactant | nBuLi | 632.4 mmol, 2.5M, 253.0 mL | [Li]CCCC
reactant | Tert-butyl-dimethyl-(2,3,5-trifluoro-4-pyridyl)silane | 549.9 mmol, 136 g | C(C)(C)(C)[Si](C1=C(C(=NC=C1F)F)F)(C)C | C11H16F3NSi
reactant | 2-fluoro-N-methoxy-N-methylpyridine-3-carboxamide | 632.4 mmol, 116.5 g | FC1=NC=CC=C1C(=O)N(C)OC | C8H9FN2O2
solvent | THF | 1.360 L | C1CCOC1 | C4H8O
product | (4-(tert-butyldimethylsilyl)-3,5,6-trifluoropyridin-2-yl)(2-fluoropyridin-3-yl)methanone | [Si](C)(C)(C(C)(C)C)C1=C(C(=NC(=C1F)F)C(=O)C=1C(=NC=CC1)F)F | C17H18F4N2OSi
